### PR TITLE
[Merged by Bors] - feat: Prerequisites for Hopkins–Levitzki theorem

### PR DESCRIPTION
**Pull request by alreadydone**
**RingTheory/HopkinsLevitzki.lean** requires:

+ **Order/Atoms.lean**, **RingTheory/Ideal/Operations.lean**: show two distinct maximal ideals are coprime (comaximal).
+ **RingTheory/Ideal/Maps.lean**: add two lemmas about annihilators.
+ **Algebra/Module/Torsion.lean**: add a lemma about being a semisimple module over a quotient ring.
+ **RingTheory/KrullDimension/Basic.lean**: add lemmas about zero-dimensional rings.
+ **RingTheory/Spectrum/Prime/Topology.lean**: switch to `Ring.KrullDimLE`.

**RingTheory/Jacobson/Radical.lean** requires:
+ **Algebra/Module/Submodule/Map.lean** and **LinearAlgebra/Span/Basic.lean**: Lemmas used to show functoriality of Jacobson radical of modules (`le_comap_jacobson`).

**RingTheory/SimpleModule.lean**: split out a single lemma that requires `Module.finrank` to reduce imports: **SimpleModule.lean** is renamed **SimpleModule/Basic.lean**, and the lemma is moved into **SimpleModule/Rank.lean**.
+ **LinearAlgebra/DFinsupp.lean**: add lemmas to show a direct sum of semisimple modules is semisimple.

**RingTheory/Artinian/Module.lean** requires:
+ **RingTheory/Artinian/Instances.lean**: move an instance to Artinian/Module, which now imports SimpleModule.
+ **Data/Finset/Lattice/Fold.lean**: add lemmas used to golf [IsArtinianRing.setOf_isMaximal_finite](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Artinian/Module.html#IsArtinianRing.setOf_isMaximal_finite) and in the proof of that an Artinian ring is semiprimary.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 1]
```diff
@@ -217,36 +217,42 @@ instance compactSpace : CompactSpace (PrimeSpectrum R) := by
...
+/-- The prime spectrum of a commutative semiring has discrete Zariski topology iff it is finite and
+the semiring has Krull dimension zero or is trivial. -/
+theorem discreteTopology_iff_finite_and_krullDimLE_zero : DiscreteTopology (PrimeSpectrum R) ↔
+    Finite (PrimeSpectrum R) ∧ Ring.KrullDimLE 0 R :=
+  ⟨fun _ ↦ ⟨finite_of_compact_of_discrete, .mk₀ fun I h ↦ isClosed_singleton_iff_isMaximal ⟨I, h⟩
+    |>.mp <| discreteTopology_iff_forall_isClosed.mp ‹_› _⟩, fun ⟨_, _⟩ ↦
+    .of_finite_of_isClosed_singleton fun p ↦ (isClosed_singleton_iff_isMaximal p).mpr inferInstance⟩
+
+@[deprecated discreteTopology_iff_finite_and_krullDimLE_zero (since := "2025-02-05")]
+theorem discreteTopology_iff_finite_and_isPrime_imp_isMaximal:
```
Comment (jcommelin) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:229]:
```suggestion
theorem discreteTopology_iff_finite_and_isPrime_imp_isMaximal :
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by alreadydone** [comment]
The failure is due to this [new test](https://github.com/leanprover-community/mathlib4/commit/4a69dc8b998d4bedb9541bc4dd45685be03f5fd5) just merged into mathlib; even if I removed the simp attribute I still need to keep this test working, which I try to do by lowering priority. It might also help to change the argument order of [Ideal.isMaximal_of_isPrime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/KrullDimension/Basic.html#Ideal.isMaximal_of_isPrime) like in [#21449](https://github.com/leanprover-community/mathlib4/pull/21449/files).

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 2]
```diff
@@ -80,14 +82,30 @@ lemma Ring.krullDimLE_zero_iff : Ring.KrullDimLE 0 R ↔ ∀ I : Ideal R, I.IsPr
 lemma Ring.KrullDimLE.mk₀ (H : ∀ I : Ideal R, I.IsPrime → I.IsMaximal) : Ring.KrullDimLE 0 R := by
   rwa [Ring.krullDimLE_zero_iff]
 
-instance (priority := 100) Ideal.isMaximal_of_isPrime [Ring.KrullDimLE 0 R]
-    (I : Ideal R) [I.IsPrime] : I.IsMaximal :=
+lemma Ideal.isMaximal_of_isPrime [Ring.KrullDimLE 0 R] (I : Ideal R) [I.IsPrime] : I.IsMaximal :=
   Ring.krullDimLE_zero_iff.mp ‹_› I ‹_›
 
+instance (priority := 100) (I : Ideal R) [I.IsPrime] [Ring.KrullDimLE 0 R] : I.IsMaximal :=
+  I.isMaximal_of_isPrime
```
Comment (alreadydone) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:89]: @erdOne I changed the argument order of this instance and kept the original order as a lemma, because this is better order for typeclass search according to [#21449](https://github.com/leanprover-community/mathlib4/pull/21449/files).

**Comment by jcommelin** [comment]
bors merge
